US05545742
Preparation of 6-Amino-5-fluoro-1-(o-methoxyphenyl)-1H-benzotriazole
A mixture of N-[5-fluoro-1-(o-methoxyphenyl)-1H-benzotriazol-6-yl]acetamide (7.14 g, 0.024 g) and concentrated hydrochloric acid (18 mL) in ethanol is refluxed for 2 hours, cooled to room temperature, brought to about pH 5.5 with 3M sodium hydroxide solution and poured into water. The resultant aqueous mixture is extracted with ethyl acetate. The organic extracts are combined, washed sequentially with water and brine, dried over anhydrous magnesium sulfate and concentrated in vacuo to obtain a dark, brown oil. Flash column chromatography of the oil using silica gel and 5% to 10% ethyl acetate in methylene chloride solutions gives the title product as an orange solid, mp 128°-129° C.

reactant | N-[5-fluoro-1-(o-methoxyphenyl)-1H-benzotriazol-6-yl]acetamide | 7.14 g | FC1=CC2=C(N(N=N2)C2=C(C=CC=C2)OC)C=C1NC(C)=O | C15H13FN4O2
reactant | hydrochloric acid | 18 mL | Cl | ClH
reactant | sodium hydroxide | 3M | [OH-].[Na+]
reactant | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-Amino-5-fluoro-1-(o-methoxyphenyl)-1H-benzotriazole | NC=1C(=CC2=C(N(N=N2)C2=C(C=CC=C2)OC)C1)F | C13H11FN4O
